US04855303
A. 1-t-butyloxycarbonyl-4-benzylpiperazine
A solution of 10.0 ml N-benzylpiperazine in 150 ml 2:1 dioxane-water was treated with aqueous sodium hydroxide solution to raise the pH to 12.0 and the 0° C. solution was treated with 18 ml di-t-butyldicarbonate. The pH was kept at 9.5-10.5 by addition of aqueous base. After 10 minutes 4 ml more di-t-butyl dicarbonate was added and after a few minutes the mixture was concentrated, extracted with ethyl acetate (5×), which was washed with brine and dried over magnesium sulfate. A clear oil (24.5 g) was obtained on solvent removal which was chromatographed on 350 g silica packed and loaded in 4% ethanol-1% triethylamine in dichloromethane (v/v/v). The column was eluted with 1 liter each of 4% EtOH/1% TEA and 6% EtOH/1% TEA. The fractions containing product were concentrated to give 18.9 g of a colorless solid which was rechromatographed on 600 g silica eluting with 1:4, 1:2 and 1:1 ethyl acetate/hexanes. The title substance, 14.2 g) TLC Rf 0.43 in 2:1 ethyl acetate/hexanes was obtained.

reactant | N-benzylpiperazine | 10.0 ml | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | di-t-butyldicarbonate | 18 ml | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-t-butyl dicarbonate | 4 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane water | O1CCOCC1.O
product | 1-t-butyloxycarbonyl-4-benzylpiperazine | 24.5 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC=CC=C1 | C16H24N2O2
